US07125901B2
Guanidine hydrochloride (152 mg) was dissolved in DMF (3 ml), and then 28% sodium methoxide methanol solution (0.3 ml) was added to the solution at r.t. The suspension was stirred at r.t. for 15 minutes, and methyl 4-(2-{2-(acetylamino)-5-[4-(methylsulfonyl)benzyl]-1,3-thiazol-4-yl}ethyl)benzoate (150 mg) was added to the mixture at r.t. The reaction mixture was stirred at r.t. for 14.hours, and concentrated in vacuo. The residue was dissolved in water, and neutralized with 1N-HCl. The precipitate was collected through filtration, and purified by preparative silica gel chromatography with CHCl3/MeOH (10:1) as an eluent. The solid was washed with ethyl ether to give 4-(2-{2-(acetylamino)-5-[4-(methylsulfonyl)benzyl]-1,3-thiazol-4-yl}ethyl)-N-[amino(imino)methyl]benzamide (36.6 mg) as an off-white solid.

reactant | Guanidine hydrochloride | 152 mg | Cl.NC(=N)N
reactant | sodium methoxide methanol | 0.3 ml | CO.C[O-].[Na+]
reactant | methyl 4-(2-{2-(acetylamino)-5-[4-(methylsulfonyl)benzyl]-1,3-thiazol-4-yl}ethyl)benzoate | 150 mg | C(C)(=O)NC=1SC(=C(N1)CCC1=CC=C(C(=O)OC)C=C1)CC1=CC=C(C=C1)S(=O)(=O)C | C23H24N2O5S2
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 4-(2-{2-(acetylamino)-5-[4-(methylsulfonyl)benzyl]-1,3-thiazol-4-yl}ethyl)-N-[amino(imino)methyl]benzamide | 36.6 mg | C(C)(=O)NC=1SC(=C(N1)CCC1=CC=C(C(=O)NC(=N)N)C=C1)CC1=CC=C(C=C1)S(=O)(=O)C | C23H25N5O4S2
